US07820837B2
ethyl (5-hydroxy-2,3-dihydro-1H-inden-1-yl)acetate
To a solution of ethyl (2E)-[5-(benzyloxy)-2,3-dihydro-1H-inden-1-ylidene]acetate (2.10 g, 6.81 mmol) in ethanol (20 mL) was added 10% palladium on carbon (50% water wet, 0.5 g), and the mixture was stirred under hydrogen atmosphere (balloon pressure) at room temperature for 24 hr. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5%-30% ethyl acetate/hexane) to give the title compound (1.45 g, yield 97%) as a colorless oil.

reactant | ethyl (2E)-[5-(benzyloxy)-2,3-dihydro-1H-inden-1-ylidene]acetate | 6.81 mmol, 2.10 g | C(C1=CC=CC=C1)OC=1C=C2CC/C(/C2=CC1)=C\C(=O)OCC | C20H20O3
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | ethyl (5-hydroxy-2,3-dihydro-1H-inden-1-yl)acetate | 1.45 g, yield 97% | OC=1C=C2CCC(C2=CC1)CC(=O)OCC | C13H16O3
